### PR TITLE
Feature esum psum esum only

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

closes #1954 

This PR intends to extract the reusable part of PR #1954 
- new lemmas about `esum`
- removal of `fpos` and `fneg` (superseded by `funrpos` and `funrneg`)

TODO: completed (?)
- ~~some scripts still need to be linted~~
- ~~some lemmas are wrongly named~~
- ~~ome lemmas are not in the right files~~

fyi: @lyonel2017 @strub 

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/esum.v [hunk 1]
```diff
@@ -356,6 +393,19 @@ by rewrite -fsbig_finite//; apply: eq_fsbigr=> x /[!inE]/XQ ?; rewrite invK ?inE
 Qed.
 Arguments reindex_esum {R T T'} P Q e a.
 
+(* TODO: rename *)
```
Comment (lyonel2017) [inline theories/esum.v]: Is this TODO relevant.

File: theories/esum.v [hunk 2]
```diff
@@ -665,3 +715,332 @@ by rewrite ge0_esum_posneg// ge0_esum_posneg// => /eqP ->.
...
+Qed.
+
+Lemma eq_sum S1 S2 : S1 =1 S2 -> sum S1 = sum S2.
+Proof.
+move=> eq_fg; rewrite /sum; congr (_ - _).
+by apply: eq_esum => t _; rewrite !funeposE eq_fg.
+by apply: eq_esum => t _; rewrite !funenegE eq_fg.
+Qed.
+
+(* TODO: rename *)
```
Comment (lyonel2017) [inline theories/esum.v]: Is this TODO relevant.

File: theories/esum.v [hunk 3]
```diff
@@ -665,3 +715,332 @@ by rewrite ge0_esum_posneg// ge0_esum_posneg// => /eqP ->.
...
+    rewrite adde_defC fin_num_adde_defl//.
+    exact: summable_esum_funepos.
+  by rewrite muleA -numEesg.
+Qed.
+
+End SumTheoryS.
+
+End SumTheory.
+
+(* TODO: move *)
```
Comment (lyonel2017) [inline theories/esum.v]: Is this TODO relevant.

**Review by lyonel2017 — CHANGES_REQUESTED** [review]

File: theories/esum.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/esum.v]: Yes, it is better to follow the naming scheme of `bigop.v`.
Fixed.

File: theories/esum.v (hunk 2 above)
Comment (affeldt-aist) [reply theories/esum.v]: Let's remove these lemmas: they do not seem optimal, not very well-named, and unused.

File: theories/esum.v (hunk 3 above)
Comment (affeldt-aist) [reply theories/esum.v]: Yes, this lemma is not in the right file (and should maybe be renamed following similar-looking lemmas).

File: theories/esum.v [hunk 4]
```diff
@@ -665,3 +714,186 @@ by rewrite ge0_esum_posneg// ge0_esum_posneg// => /eqP ->.
 Qed.
 
 End esumB.
+
+Section Sum.
+Context {R : realType} {T : choiceType}.
+Implicit Types (f : T -> \bar R) (x y : \bar R).
+
+Lemma ge0_funeneg f t : (forall t, 0 <= f t) -> f^\- t = 0.
```
Comment (affeldt-aist) [inline theories/esum.v]: This might need to go to `numfun.v`.

**Comment by affeldt-aist** [comment]
@t6s I am pinging you because this PR changes the definition of `esum`, I thought you may want to know

**Comment by affeldt-aist** [comment]
@lyonel2017 @strub rebased

**Comment by t6s** [comment]
It looks like there are several chunks of changes contained in this PR, making it difficult to review it at once. Can you provide a bit more detailed description of intention for each of them? For example, which lemmas do you consider are important?

**Comment by affeldt-aist** [comment]
> It looks like there are several chunks of changes contained in this PR, making it difficult to review it at once.
> Can you provide a bit more detailed description of intention for each of them?
> For example, which lemmas do you consider are important?

This is maybe for @lyonel2017 and @strub to say because this PR is used to develop another one.

From my viewpoint, the main change is the definition of `esum` which has become:
```rocq
Definition esum S f := pos_esum S f^\+ - pos_esum S f^\-.
```
Before that, it was only the positive part.

**Comment by lyonel2017** [comment]
> This is maybe for @lyonel2017 and @strub to say because this PR is used to develop another one.

I started porting the [distr.v](https://github.com/math-comp/analysis/blob/master/experimental_reals/distr.v) file from `experimental_real` to use `esum`. The idea is to better integrate the result present in `experimental_reals` into `mathcomp-analysis`. The current status is available here [counting_distr.v](https://github.com/lyonel2017/analysis/blob/counting_distribution_tmp/theories/probability_theory/counting_distr.v) (the branch is not up to date with this PR). For me all the changes present in this PR are required for the porting.

File: experimental_reals/realsum.v [hunk 5]
```diff
@@ -40,108 +43,23 @@ by have := h fset0; rewrite big_pred0 // => -[x]; rewrite in_fset0.
...
-Proof.
-rewrite /fpos /fneg maxC.
-case: (leP (f x) 0); rewrite normr0 (subr0, sub0r) => ?.
-  by rewrite ler0_norm ?opprK.
-by rewrite gtr0_norm.
-Qed.
-
-Definition psum f : R :=
+Definition psum {R : realType} {T : choiceType} (f : T -> R) : R :=
   (* We need some ticked `image` operator *)
```
Comment (t6s) [inline experimental_reals/realsum.v:70]:
```
Local Notation fsum f :=
  (fun (J : {fset T}) => \sum_(x : J) `|f (val x)|).

Definition psum (f : T -> R) : R :=
  let S := range (fsum f) in
  if `[<summable f>] then sup S else 0.
```

I am afraid I did not understand what "ticked" means here, but the above code using `image` works.
(`range f` is a notation for ``(f @` [set: _])%classic``)

Comment (t6s) [reply experimental_reals/realsum.v:70]: (oops, this line does not belong to this PR)

File: experimental_reals/realsum.v [hunk 6]
```diff
@@ -343,6 +263,27 @@ by case=> /= [|J lt_lJ _]; [apply/summable_sup | exists J].
 Qed.
 End SumTh.
 
+Lemma esum_psum {R : realType} {T : choiceType} (f : T -> R) :
```
Comment (t6s) [inline experimental_reals/realsum.v:294]: Noting that `esum` has a very similar definition to `sum`, the following proof strategy is also possible:
discard the negative part of `esum`, and show `PosEsum.pos_esum` and `psum` are equal.

An attempt is as follows, but resulted in a longer proof:
```
Lemma ge0_funenegET :
  forall [T : Type] [R : realDomainType] [f : T -> \bar R],
  (forall x : T, (0%R <= f x)%E) -> f^\-%E = cst 0.
Proof.
move=> ? ? ? H; apply/funext => ?.
have ->// := @ge0_funenegE _ _ setT.
by rewrite mem_set.
Qed.

Lemma ge0_funrposET :
  forall [T : Type] [R : realDomainType] [f : T -> R],
    (forall x : T, 0 <= f x) -> f^\+ = f.
Proof.
move=> ? ? ? H; apply/funext => ?.
have ->// := @ge0_funrposE _ _ setT.
by rewrite mem_set.
Qed.

Lemma fsetsTE (T : choiceType) : fsets [set: T] = finite_set.
Proof. by apply/funext=> ?; apply/propext; split => // -[]. Qed.

Lemma exists_fsetE (T : choiceType) (P : {fset T} -> Prop) :
  (exists J : {fset T}, P J) = (exists2 J : set T, finite_set J & P (fset_set J)).
Proof.
apply/propext; split.
  by case=> J ?; exists [set` J]%classic => //; rewrite set_fsetK.
by case=> J ? ?; exists (fset_set J).
Qed.

Lemma exists_finite_setE (T : choiceType) (P : set T -> Prop) :
  (exists2 J : set T, finite_set J & P J) = (exists J : {fset T}, P [set` J]%classic).
Proof.
rewrite exists_fsetE; apply/propext; split => -[] J ?.
  by move=> ?; exists J => //; rewrite fset_setK.
by rewrite fset_setK// => ?; exists J.
Qed.

Lemma esymE (T : Type) (x y : T) : (x = y) = (y = x).
Proof. by apply/propext; split => /esym. Qed.

Lemma esum_psum {R : realType} {T : choiceType} (f : T -> R) :
    (forall i, 0 <= f i) -> summable f ->
  \esum_(x in [set: T]) (f x)%:E = (psum f)%:E.
Proof.
move=> f0 h.
rewrite /esum ge0_funenegET// [X in (_ - X)%E]PosEsum.pos_esum1// sube0.
rewrite /PosEsum.pos_esum fsetsTE.
rewrite /psum/=; case:asboolP => // _.
set S := (S in sup S).
have S_has_ubound : has_ubound S.
  by case: h => M HM; exists M => ?/= [] J ->; exact: HM.
  (* summable f -> has_ubound S; (S in the definition of psum) *)
have S_nonempty : (S !=set0)%classic.
  by exists 0, fset0; rewrite big1// => i; have := fsvalP i.
  (* S always has the sum over the emptyset as its elements *)
rewrite -ereal_sup_EFin; [exact: S_has_ubound | exact: S_nonempty |].
congr ereal_sup.
under eq_imagel do rewrite fsbig_finite//= funerpos/= sumEFin.
rewrite -[LHS]image_comp; congr image.
rewrite /S; apply: funext=> x/=.
rewrite exists_finite_setE; congr ex; apply/funext => J.
rewrite [LHS]esymE; congr eq.
rewrite -(big_seq_fsetE _ _ xpredT (Num.norm \o f))/= set_fsetK.
apply: eq_bigr => ? _.
by rewrite ger0_norm// ge0_funrposET.
Qed.
```

Comment (t6s) [reply experimental_reals/realsum.v:294]: Further refactored; this `ge0_psumEpos_esum` can also be used to shorten `esumEsum`.
```
Lemma ge0_psumEpos_esum {R : realType} {T : choiceType} (f : T -> R) :
  (forall i, 0 <= f i) -> summable f ->
  (psum f)%:E = PosEsum.pos_esum [set: T] (EFin \o f).
Proof.
move=> f0 h.
rewrite /psum/=; case: asboolP => // _.
rewrite /PosEsum.pos_esum fsetsTE.
set S := (S in sup S).
have S_has_ubound : has_ubound S.
  by case: h => M HM; exists M => ?/= [] J ->; exact: HM.
  (* summable f -> has_ubound S; (S in the definition of psum) *)
have S_nonempty : (S !=set0)%classic.
  by exists 0, fset0; rewrite big1// => i; have := fsvalP i.
  (* S always has the sum over the emptyset as its elements *)
rewrite -ereal_sup_EFin; [exact: S_has_ubound | exact: S_nonempty |].
congr ereal_sup.
under [RHS]eq_imagel do rewrite fsbig_finite//= sumEFin.
rewrite -[RHS]image_comp; congr image.
rewrite /S; apply: funext=> x/=.
rewrite exists_finite_setE; congr ex; apply/funext => J.
rewrite [LHS]esymE; congr eq.
rewrite -(big_seq_fsetE _ _ xpredT (Num.norm \o f))/= set_fsetK.
apply: eq_bigr => ? _.
by rewrite ger0_norm.
Qed.

Lemma esum_psum {R : realType} {T : choiceType} (f : T -> R) :
    (forall i, 0 <= f i) -> summable f ->
  \esum_(x in [set: T]) (f x)%:E = (psum f)%:E.
Proof.
move=> f0 h.
rewrite /esum ge0_funenegET// [X in (_ - X)%E]PosEsum.pos_esum1// sube0.
by rewrite psumEpos_esum// funerpos ge0_funrposET.
Qed.
```

Comment (affeldt-aist) [reply experimental_reals/realsum.v:294]: I am not sure we need to revise the proof scripts,
even though I am still unsure about the quality of the API:
this PR is certainly an improvement but work remains.
For example, what about renaming `psum` to `pos_sum` (to match `pos_esum` and also because it looks like "partial sum" to me, since we use `gt0` to say "positive" in MathComp---of course in lemmas).

Comment (affeldt-aist) [reply experimental_reals/realsum.v:294]: This is a right observation to say that some lemma should bridge `pos_esum` and `psum`,
but while `pos_esum` is "hidden" in a Module, `psum` isn't yet.

Comment (affeldt-aist) [reply experimental_reals/realsum.v:294]: But, if we were to really "hide" `psum` in a Module, it is maybe reasonable to postpone because the API of `psum` contains infamous admitted lemmas (`__admitted__psumB` and `__admitted__interchange_psum`).
Fixing the latter is a goal of @lyonel2017, so we shall come back to it anyway.

Comment (affeldt-aist) [reply experimental_reals/realsum.v:294]: The last commit (86ec8af9d50c6ed39518e40e96c28d81a8bbef46) proves `__admitted_psumB` (it was about time...).

Comment (affeldt-aist) [reply experimental_reals/realsum.v:294]: > Noting that `esum` has a very similar definition to `sum`, the following proof strategy is also possible: discard the negative part of `esum`, and show `PosEsum.pos_esum` and `psum` are equal.
> 
> An attempt is as follows, but resulted in a longer proof:
> 
> ```
> [crunch]
> Lemma fsetsTE (T : choiceType) : fsets [set: T] = finite_set.
> Proof. by apply/funext=> ?; apply/propext; split => // -[]. Qed.
> [crunch]
> ```

I kept this lemma but didn't integrate the other ones.
In particular, I didn't keep `ge0_funenegET` and its `pos` variant because iirc they were introduced at some point but turned out to be less useful than their extensional variants (`forall x, ... x = ... x`).

**Review by t6s — APPROVED** [review]
After playing for a while with this code, I have a feeling that the code is in a consistent state.
I am inspired to do some additions (other than I suggested in the previous review comments) to `fsbig`, which could possibly simplify `PosEsum`, `psum`, and `esum`, but I will let them go into a separate PR rather than requesting changes here.

**Comment by t6s** [comment]
ah, but one thing: naming conventions seem to be incoherent between `esum_psum` and `esumEsum`

**Comment by affeldt-aist** [comment]
> ah, but one thing: naming conventions seem to be incoherent between `esum_psum` and `esumEsum`

Yes indeed, `esum_sum` seems better than `esumEsum`.
Thank you for you time trying to optimize this PR, I understand it is difficult to context switch.
